US04636492
Z-Phe-Gly-Ala-OH (1.60 g, 3.73 mmol) was then coupled to H-ValCH2Cl.HCl by a procedure substantially similar to that described for the preparation of Z-Phe-Gly-Leu-LeuCH2Cl, above. The resulting product was crystallized from ethyl acetate:ether to yield 1.29 g of Z-Phe-Gly-Ala-ValCH2Cl (m.p. 143°-144°).

reactant | Z-Phe-Gly-Ala-OH | 3.73 mmol, 1.60 g | N([C@@H](CC1=CC=CC=C1)C(=O)NCC(=O)N[C@@H](C)C(=O)O)C(=O)OCC1=CC=CC=C1 | C22H25N3O6
reactant | H-ValCH2Cl.HCl | N[C@@H](C(C)C)C(=O)CCl.Cl
reactant | Z-Phe-Gly-Leu-LeuCH2Cl | N([C@@H](CC1=CC=CC=C1)C(=O)NCC(=O)N[C@@H](CC(C)C)C(=O)N[C@@H](CC(C)C)C(=O)CCl)C(=O)OCC1=CC=CC=C1 | C32H43ClN4O6
product | Z-Phe-Gly-Ala-ValCH2Cl | 1.29 g | N([C@@H](CC1=CC=CC=C1)C(=O)NCC(=O)N[C@@H](C)C(=O)N[C@@H](C(C)C)C(=O)CCl)C(=O)OCC1=CC=CC=C1 | C28H35ClN4O6
